US05039781
2-(4-Hydroxy-3,5-dimethylphenyl)acetic acid is prepared in a known way (cf. J. Org. Chem. 11, 798 (1946)) from 4-acetyl-2,6-dimethylphenol, sulfur, and morpholine (Willgeroth-Kindler Reaction) and has a melting point of 147° C. The acid is converted into the 2-hydroxyethylamide (yellow-brown oil) through the methyl ester (melting point 95° C.) by the method of Example 1.1.

reactant | 4-acetyl-2,6-dimethylphenol | C(C)(=O)C1=CC(=C(C(=C1)C)O)C | C10H12O2
reactant | sulfur | [S] | S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 2-hydroxyethylamide | OCC[NH-]
product | 2-(4-Hydroxy-3,5-dimethylphenyl)acetic acid | OC1=C(C=C(C=C1C)CC(=O)O)C | C10H12O3
